US05726175
0.34 g of sodium hydride is added to 1 g of ethyl 4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-2-carboxylate in solution in 20 ml of anhydrous dimethyl sulphoxide, while the temperature of the reaction mixture is maintained below 20° C. 0.44 ml of isoamyl nitrite is then added and stirring is continued for 18 hours at the same temperature. The reaction mixture is then poured into iced water and the solution is acidified with 15 ml of acetic acid. The precipitate formed is filtered off, washed with water, with acetone and then with methanol and finally dried under reduced pressure (1 mm Hg; 0.13 kPa) to produce 0.25 g of 10-hydroxyimino-4,5-dihydro-4-oxo-imidazo[1,2-a]indeno[1,2-e]pyrazine-2-carboxylic acid in the form of a brown powder whose melting point is higher than 260° C. (1H spectrum in DMSO, T=300K, δ in ppm (200 MHz), mixture of the syn and anti isomers: Major isomer: between 7.30 and 7.50 (2H, m, CH arom.), 7.62 (1H, s, CH arom.), 7.82 (1H, d, J=7 Hz, CH arom.), 8.00 (1H, s, CH arom.), 8.20 (1H, d, J=7 Hz, CH arom.), 12.7 (1H, s, NH), 13.0 (1H, s, OH), Minor isomer: between 7.30 and 7.50 (2H, m, CH arom.), 7.51 (1H, s, CH arom.), 7.70 (1H, d, J=7 Hz, CH arom.), 7.88 (1H, d, J=7 Hz, CH arom.), 8.58 (1H, s, CH arom.), 12.7 (1H, s, NH), 13.2 (1H, s, OH)).

reactant | sodium hydride | 0.34 g | [H-].[Na+]
reactant | ethyl 4,5-dihydro-4-oxo-10H-imidazo[1,2-a]indeno[1,2-e]pyrazine-2-carboxylate | 1 g | O=C1C=2N(C3=C(N1)C=1C=CC=CC1C3)C=C(N2)C(=O)OCC | C16H13N3O3
reactant | isoamyl nitrite | 0.44 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | water | O | H2O
solvent | dimethyl sulphoxide | 20 ml | CS(=O)C | C2H6OS
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 10-hydroxyimino-4,5-dihydro-4-oxo-imidazo[1,2-a]indeno[1,2-e]pyrazine-2-carboxylic acid | 0.25 g | ON=C1C=2C=CC=CC2C=2NC(C=3N(C21)C=C(N3)C(=O)O)=O | C14H8N4O4
